US04176223
(c) 4-(4'-Hydroxyphthalimido)phenol
In a stirred dry flask under N2, to a solution of 54.5 g p-aminophenol (0.5 mole) in 500 ml dry pyridine was added over 10 min at room temperature 82.0 g powdered 4-hydroxyphthalic anhydride (0.31 mole) and the mixture refluxed 5 hr. This black solution was cooled, poured into 1500 ml water, acidified with HCl, filtered, washed, and dried. M.P. 302°-304° C. Recrystallization was unnecessary. Yield 104 g, 82%.

reactant | p-aminophenol | 0.5 mole, 54.5 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 4-hydroxyphthalic anhydride | 0.31 mole, 82.0 g | OC=1C=C2C(C(=O)OC2=O)=CC1 | C8H4O4
reactant | water | 1500 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4'-Hydroxyphthalimido)phenol | OC=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)O)=CC1 | C14H9NO4
